US07507729B2
a) (4-Oxo-4H-pyridin-1-yl)-acetic acid hydrazide
As described for example 112a, (4-oxo-4H-pyridin-1-yl)-acetic acid ethyl ester (Bambury, Ronald E.; Edwards, Michael Louis; Miller, Laird Foulis. 4-Oxo-1-pyridinylpeniclliin and -cephalosporin derivatives. Ger. Offen. (1975)) in ethanol was reacted with hydrazine hydrate (1.2 equivalents) at rt for 72 h. The mixture was concentrated and crystallized from ethanol/diisopropylether and the title compound was obtained as a yellow solid (yield: 98%). MS: m/e=168.3 [M+H]+.

reactant | (4-oxo-4H-pyridin-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C=CC(C=C1)=O)=O | C9H11NO3
reactant | hydrazine hydrate | 1.2 equivalents | O.NN
solvent | ethanol | C(C)O | C2H6O
product | (4-Oxo-4H-pyridin-1-yl)-acetic acid hydrazide | O=C1C=CN(C=C1)CC(=O)NN | C7H9N3O2
